US07405210B2
[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl amino]acetic acid ethyl ester
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 800 mg, 4.1 mmol) in DMF (40 mL) was added glycine ethyl ester hydrochloride (625 mg, 4.5 mmol), HOBt (0.55 g, 4.1 mmol) and DIPEA (2.13 mL, 12.2 mmol). After 5 min, EDCI (1.01 g, 5.3 mmol) was added and the reaction stirred at rt for 16 h. The solvent was removed in vacuo and the solid partitioned between water (100 mL) and ethyl acetate (3×80 mL). The combined organic fractions were dried (MgSO4), concentrated in vacuo and purified by chromatography on silica gel eluting with methanol/dichloromethane (4:96) to give the title compound as a yellow solid. δH (CD3OD): 1.28 (3H, t), 4.14 (2H, s), 4.23 (2H, q), 7.10 (1H, s), 7.68 (1H, s), 8.59 (1H, s); m/z (ES+)=282 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 4.1 mmol, 800 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | glycine ethyl ester hydrochloride | 4.5 mmol, 625 mg | Cl.C(C)OC(CN)=O
reactant | HOBt | 4.1 mmol, 0.55 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 12.2 mmol, 2.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 5.3 mmol, 1.01 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl amino]acetic acid ethyl ester | C(C)OC(CNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)=O | C12H12ClN3O3
